US04521607
By reacting N-(2-indanyl)glycine with 3-acetylthiopropionyl chloride in a similar manner to that of Example 1, there is obtained N-(3-acetylthiopropionyl)-N-(2-indanyl)glycine as colorless scales.

reactant | N-(2-indanyl)glycine | C1C(CC2=CC=CC=C12)NCC(=O)O | C11H13NO2
reactant | 3-acetylthiopropionyl chloride | C(C)(=O)CCC(=S)Cl | C5H7ClOS
product | N-(3-acetylthiopropionyl)-N-(2-indanyl)glycine | C(C)(=O)CCC(=S)N(CC(=O)O)C1CC2=CC=CC=C2C1 | C16H19NO3S
